US08431596B2
Cyclopropanecarboxylic acid {5-[(pyridin-2-ylmethyl)-amino]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (WW-075)
To a solution of cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide (0.05 g, 0.178 mmol) in dimethylacetamide (1 mL) in a microwave vial, 2-aminomethylpyridine (0.096 g, 0.89 mmol) was added and the solution was heated in the microwave at 150° C. for 15 min. The crude was purified straight away by preparatory chromatography after filtration. LCMS method: 2, RT: 2.07 min, MI: 309 [M+1]. NMR (1H, DMSO, 300 MHz): 10.91 (s, 1H), 8.57 (d, 1H), 7.77 (t, 1H), 7.30-7.49 (m, 4H), 6.85 (d, 1H), 6.08 (d, 1H), 4.67 (d, 2H), 2.07 (brs, 1H), 0.83 (d, 4H)

reactant | cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | 0.178 mmol, 0.05 g | BrC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C10H9BrN4O
reactant | 2-aminomethylpyridine | 0.89 mmol, 0.096 g | NCC1=NC=CC=C1 | C6H8N2
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
product | Cyclopropanecarboxylic acid {5-[(pyridin-2-ylmethyl)-amino]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | N1=C(C=CC=C1)CNC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C16H16N6O
